US07728025B2
(Step 5) Production of t-butyl 2-(4-amino-2-((2′-fluorobiphenyl-4-yl)oxy)-5-nitrophenyl)pyrrolidine-1-carboxylate
200 mg of 2′-fluorobiphenyl-4-ol and 184 mg of potassium carbonate were added to an N,N-dimethylformamide (3 ml) solution of 288 mg of t-butyl 2-(4-amino-2-fluoro-5-nitrophenyl)pyrrolidine-1-carboxylate, and the reaction liquid was stirred overnight at 80° C. The reaction liquid was diluted with ethyl acetate, washed with water and saturated saline in order, and dried with anhydrous magnesium sulfate. The solvent was evaporated away, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=5/1) to obtain the entitled compound as a yellow solid.

reactant | 2′-fluorobiphenyl-4-ol | 200 mg | FC1=C(C=CC=C1)C1=CC=C(C=C1)O | C12H9FO
reactant | potassium carbonate | 184 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | t-butyl 2-(4-amino-2-fluoro-5-nitrophenyl)pyrrolidine-1-carboxylate | 288 mg | NC1=CC(=C(C=C1[N+](=O)[O-])C1N(CCC1)C(=O)OC(C)(C)C)F | C15H20FN3O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-butyl 2-(4-amino-2-((2′-fluorobiphenyl-4-yl)oxy)-5-nitrophenyl)pyrrolidine-1-carboxylate | NC1=CC(=C(C=C1[N+](=O)[O-])C1N(CCC1)C(=O)OC(C)(C)C)OC1=CC=C(C=C1)C1=C(C=CC=C1)F | C27H28FN3O5
